US07402608B2
3-[(1-cyano-piperidin-4-yl)-(4-methyl cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (150 mg, 0.32 mmol) was dissolved in a 4:1 mixture of dioxane:H2O (3.2 ml) and treated with LiOH.H2O (20 mg, 0.48 mmol). After 2 hours of stirring at 50° C., the solvents were removed and then partitioned between 5 ml of H2O acidified to pH 4 and 5 ml of EtOAc. The organic layer was separated and the aqueous phase as washed twice with ethyl acetate (2×5 mL). The combined ethyl acetate layer was dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography using (5% MeOH/CH2Cl2) to provide 3-[(1-Cyano-piperidin-4-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid (114.3 mg, 78% yield) as pale green foam. 1H NMR (DMSO-d6, 400 MHz): 7.80 (m, 2H), 7.45 (m, 4H), 4.44 (m, 1H), 3.35 (m, 2H), 3.13 (m, 2H), 1.96 (t, 1H), 1.88 (d, 1H), 1.75 (m, 1H), 1.70-1.40 (m, 6H), 1.20 (m, 3H), 0.70 (d, 3H), 0.60 (m, 2H).

reactant | 3-[(1-cyano-piperidin-4-yl)-(4-methyl cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.32 mmol, 150 mg | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CCN(CC1)C#N)C1=CC=CC=C1 | C26H31N3O3S
reactant | H2O | 3.2 ml | O | H2O
reactant | LiOH.H2O | 0.48 mmol, 20 mg | O[Li].O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(1-Cyano-piperidin-4-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 114.3 mg, 78% yield | C(#N)N1CCC(CC1)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(=O)C1CCC(CC1)C | C25H29N3O3S
